US07902252B2
4.38. Synthesis of 6-(3-chlorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (121)
The title compound was synthesized from methyl 6-(3-chlorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (140 mg, 0.48 mmol) and lithium hydroxide (188 mg, 4.50 mmol, in 1 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (2 mL) was used. The resulting product was purified by chromatography, eluting with heptane-EtOAc, gradient 0 to 50% EtOAc. 90 mg. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.07-2.20 (m, 1H) 2.52-2.68 (m, 3H) 2.74-2.82 (m, 1H) 2.86-2.93 (m, 1H) 3.33-3.43 (m, 1H) 6.75 (d, J=1.61 Hz, 1H) 7.03-7.09 (m, 1H) 7.20-7.23 (m, 1H) 7.25-7.29 (m, 2H) 8.35 (br. s., 1H). LCMS m/e 276 (M+H). Purity>75% (HPLC).

reactant | methyl 6-(3-chlorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.48 mmol, 140 mg | ClC=1C=C(CC2CCC3=C2NC(=C3)C(=O)OC)C=CC1 | C16H16ClNO2
reactant | lithium hydroxide | 4.50 mmol, 1 mL, 188 mg | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-(3-chlorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | ClC=1C=C(CC2CCC3=C2NC(=C3)C(=O)O)C=CC1 | C15H14ClNO2
